US06130241
(a) 3-(7-Hydroxyhept-1-yl)-3-azabicyclo[3.1.0]hexane-2,4-dione
Diethyl azodicarboxylate (0.94 g) was added to a mixture of 3-azabicyclo[3.1.0]hexane-2,4-dione (0.5 g), 1,7-heptanediol (2.46 g), triphenylphosphine (1.42 g) and 4 angstrom sieves (1.5 g) in dry tetrahydrofuran (10 ml) under a nitrogen atmosphere. The reaction mixture was stirred at room temperature for 2 days and was then filtered. The solids were washed with ethyl acetate (2×50 ml) and the combined filtrates were evaporated in vacuo. The residue was purified by chromatography on silica using 60-70% ethyl acetate/hexane as eluant, followed by kugelrohr distillation (b.p. 200-220° C. @ 1 mmHg) to give the subtitle compound as a viscous oil.

reactant | Diethyl azodicarboxylate | 0.94 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 3-azabicyclo[3.1.0]hexane-2,4-dione | 0.5 g | C12C(NC(C2C1)=O)=O | C5H5NO2
reactant | 1,7-heptanediol | 2.46 g | C(CCCCCCO)O | C7H16O2
reactant | triphenylphosphine | 1.42 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-(7-Hydroxyhept-1-yl)-3-azabicyclo[3.1.0]hexane-2,4-dione | OCCCCCCCN1C(C2CC2C1=O)=O | C12H19NO3
